US06936606B2
3,3,4-Trimethylpentanol (1 equiv) is dissolved in CH2Cl2. Pyridinium chlorochromate (1.5 equiv) is added and the resulting mixture is stirred at ambient temperature. The liquid is decanted and concentrated by rotary evaporation. The residue is triturated with 1 to 1 diethyl ether/hexane and mixture is filtered and the filtrate is washed with 1 N HCl. The organic layer is dried over Na2SO4, decanted and concentrated. The aldehyde is purified by fractional distillation to yield 3,3,4-trimethylpentanal.

reactant | 3,3,4-Trimethylpentanol | 1 equiv | CC(CCO)(C(C)C)C | C8H18O
reactant | Pyridinium chlorochromate | 1.5 equiv | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3,3,4-trimethylpentanal | CC(CC=O)(C(C)C)C | C8H16O
